US06306891B1
To a 500 mL round bottomed flask with a stirring bar and a drying tube was added 1-[1-(4-fluorobenzyl)-1H-pyrrol-2-yl]ethanone AI-1-1 (11.64 g, 53.58 mmol) and acetic anhydride (230 mL). This solution was cooled to −78° C. and concentrated nitric acid (3.7 mL of 15.9 N solution, 58.24 mmol) was added with a pipette. The cooling bath was allowed to expire and the mixture warmed to 0° C. over 7 h. The acetic anhydride was removed in vacuo and the residue was taken up in EtOAc (500 mL). This solution was washed with saturated aqueous NaHCO3 solution (2×) and brine. Drying (MgSO4), filtration and removal of the solvent in vacuo gave a solid. This material was chromatographed on silica gel using 20% EtOAc in hexane as eluant. An impure yellow crystalline solid was obtained. This material was recrystallized from Et2O/hexane to give white crystals of 1-[1-(4-fluorobenzyl)-4-nitro-1H-pyrrol-2-yl]ethanone AVI-1-1. 1H NMR (CDCl3) δ 2.55 (3H, s), 5.54 (2H, s), 7.06 (2H, m), 7.20 (2H, m), 7.47 (1H, d, j=1.8 Hz), 7.63 (1H, d, j=1.8 Hz).

reactant | 1-[1-(4-fluorobenzyl)-1H-pyrrol-2-yl]ethanone | 53.58 mmol, 11.64 g | FC1=CC=C(CN2C(=CC=C2)C(C)=O)C=C1 | C13H12FNO
reactant | nitric acid | 58.24 mmol, 15.9 N, 3.7 mL | [N+](=O)(O)[O-] | HNO3
solvent | acetic anhydride | 230 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 1-[1-(4-fluorobenzyl)-4-nitro-1H-pyrrol-2-yl]ethanone | FC1=CC=C(CN2C(=CC(=C2)[N+](=O)[O-])C(C)=O)C=C1 | C13H11FN2O3
